US06914074B2
6-Phenyl-2-naphthol
The title compound was prepared by reacting 2-methoxy-6-phenylnaphthalene (0.54 g, 2.30 mmol) with of pyridinium HCl (10 g) at 190° C. according to method B to yield 0.32 g (63%) of a light pink solid: mp 169-170° C.; 1H NMR (DMSO-d6): δ 7.12 (1H, dd, J=2.56 Hz, J=8.54 Hz), 7.16 (1H, d, J=2.56 Hz), 7.35-7.38 (1H, m), 7.47-7.50 (2H, m), 7.73 (1H, dd, J=1.71 Hz, J=8.54 Hz), 7.76-7.79 (3H, m), 7.85 (1H, d, J=8.54 Hz), 8.08 (1H, d, J=1.28 Hz), 9.82 (1H, s); MS (ESI) m/z 219 (M−H)−.

reactant | 2-methoxy-6-phenylnaphthalene | 2.30 mmol, 0.54 g | COC1=CC2=CC=C(C=C2C=C1)C1=CC=CC=C1 | C17H14O
reactant | pyridinium HCl | 10 g | Cl.[NH+]1=CC=CC=C1
product | 6-Phenyl-2-naphthol | C1(=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)O | C16H12O
